US07528142B2
N-(4-((4-(3-methyl-1H-pyrazol-5-ylamino)-6-(3-cyclopropyl-3-hydroxyazetidin-1-yl)pyrimidin-2-yl)sulfanyl)-3-fluorophenyl)cyclopropanecarboxamide (I-11)
A mixture of N-(4-(4-(3-methyl-1H-pyrazol-5-ylamino)-6-chloropyrimidin-2-ylthio)-3-fluorophenyl)cyclopropane-carboxamide (160 mg, 0.38 mmol), 3-cycloropylazetidin-3-ol hydrochloride (70 mg, 0.49 mmol) and DIPEA (0.20 ml) in n-butanol (1.5 ml) were heated in microwave at 130 ° C. for 1 h. Reaction mixture was then cooled to room temperature, diluted with EtOAc (20 ml), washed with sat NaHCO3 solution (10 ml), water (2×10 ml), brine (10 ml), dried (MgSO4), filtered and evaporated in vacuo. Crude product was purified by flash chromatography on silica (EtOAc/Petrol 30 to 80%) to give the title compound as a white solid (55 mg, 29%). 1H NMR (DMSO-d6) 0.33-0.36 (2H, m), 0.42-0.48 (2H, m), 0.82-0.86 (4H, m), 1.21-1.24 (2H, m), 1.85-1.89 (1H, m), 2.08 (3H, s), 2.10-2.15 (1H, m), 3.66-3.75 (4H, m), 5.42 (1H, br s), 5.67 (1H, 1H, s), 5.8 (1H, br s), 7.42 (1H, d), 7.52-7.58 (1H, m), 7.75 (1H, d), 9.27 (1H, s), 10.65 (1H, s), 11.9 (1H, br s). ES+ 496.90.

reactant | N-(4-(4-(3-methyl-1H-pyrazol-5-ylamino)-6-chloropyrimidin-2-ylthio)-3-fluorophenyl)cyclopropane-carboxamide | 0.38 mmol, 160 mg | CC1=NNC(=C1)NC1=NC(=NC(=C1)Cl)SC1=C(C=C(C=C1)NC(=O)C1CC1)F | C18H16ClFN6OS
reactant | hydrochloride | 0.49 mmol, 70 mg | Cl | ClH
reactant | DIPEA | 0.20 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | n-butanol | 1.5 ml | C(CCC)O | C4H10O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | N-(4-((4-(3-methyl-1H-pyrazol-5-ylamino)-6-(3-cyclopropyl-3-hydroxyazetidin-1-yl)pyrimidin-2-yl)sulfanyl)-3-fluorophenyl)cyclopropanecarboxamide | 55 mg, 29% | CC1=NNC(=C1)NC1=NC(=NC(=C1)N1CC(C1)(O)C1CC1)SC1=C(C=C(C=C1)NC(=O)C1CC1)F | C24H26FN7O2S
